US07314886B2
34.A. Synthesis of 8′-Ethyl-4′,9′-dihydro-3′H-spiro(cyclohexane-1,1′-pyrano[3,4-b]indole)-4-carboxylic acid ethyl ester
Following the procedure of example 24.A. except using 2-(7-ethyl-1H-indol-3-yl)-ethanol as the 3-indolethanol component and 4-oxo-cyclohexane carboxylic acid ethyl ester as ketone component afforded the title compound as an oil. ESI (+) MS m/e=342 (MH+), ESI (−) MS m/e=340 (MH−).

reactant | 2-(7-ethyl-1H-indol-3-yl)-ethanol | C(C)C=1C=CC=C2C(=CNC12)CCO | C12H15NO
reactant | 3-indolethanol | N1C=C(C2=CC=CC=C12)CCO | C10H11NO
reactant | 4-oxo-cyclohexane carboxylic acid ethyl ester | C(C)OC(=O)C1CCC(CC1)=O | C9H14O3
product | 8′-Ethyl-4′,9′-dihydro-3′H-spiro(cyclohexane-1,1′-pyrano[3,4-b]indole)-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCC2(OCCC3=C2NC2=C(C=CC=C32)CC)CC1 | C21H27NO3
